US09290451B2
a) 5-Bromo-6-(pyridin-2-ylmethoxy)-pyridine-2-carboxylic acid
The title compound was synthesized in analogy to Example 9 d, using 5-bromo-6-chloro-pyridine-2-carboxylic acid and 2-pyridinemethanol (CAN 586-98-1) as starting materials, LC-MS (UV peak area/ESI) 100%, 308.9876 (M+H)+.

reactant | 5-bromo-6-chloro-pyridine-2-carboxylic acid | BrC=1C=CC(=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | 2-pyridinemethanol | N1=C(C=CC=C1)CO | C6H7NO
product | 5-Bromo-6-(pyridin-2-ylmethoxy)-pyridine-2-carboxylic acid | BrC=1C=CC(=NC1OCC1=NC=CC=C1)C(=O)O | C12H9BrN2O3
